US07531546B2
To a solution of 6-bromomethyl-7-(2-cyclohexyl-ethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (290 mg, 0.84 mmol) in DMF (1.7 ml), 2,8-Diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester (201 mg, 0.84 mmol) and potassium carbonate (138 mg, 1.0 mmol) are added. The mixture is stirred at room temperature under nitrogen atomosphere for 14 h. The reaction mixture is diluted with water and extracted with AcOEt (twice). The combined organic layer is washed with water and brine, dried over MgSO4, and concentrated in vacuo. The residue is purified by silica gel column chromatography (n-hexane:AcOEt=1:1) to give 8-[2-Cyano-7-(2-cyclohexyl-ethyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester in 71% yield. Rf=0.45(n-hexane:AcOEt=1:1).

reactant | 6-bromomethyl-7-(2-cyclohexyl-ethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.84 mmol, 290 mg | BrCC1=CC2=C(N=C(N=C2)C#N)N1CCC1CCCCC1 | C16H19BrN4
reactant | 2,8-Diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester | 0.84 mmol, 201 mg | C(C)(C)(C)OC(=O)N1CC2(CC1)CCNCC2 | C13H24N2O2
reactant | potassium carbonate | 1.0 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.7 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 8-[2-Cyano-7-(2-cyclohexyl-ethyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester | 71% yield | C(C)(C)(C)OC(=O)N1CC2(CC1)CCN(CC2)CC2=CC1=C(N=C(N=C1)C#N)N2CCC2CCCCC2 | C29H42N6O2
